US06506868B1
The same reactor as in Preparation Example 1 was charged with 250.00 g of glycidol (manufactured by NOF CORPORATION, trade name “Epiol OH”) and 799.81 g of tetramethoxysilane partial condensate (manufactured by Tama Chemicals Co., Ltd., trade name “Methyl Silicate 51”). In a stream of nitrogen, the flask was heated to 90° C. with stirring. Then, 1.00 g of dibutyltin dilaurate was added to the reactor as a catalyst to cause demethanolization reaction. During the reaction, methanol was removed from the reaction system using the water distributor. When the amount of the removed methanol became about 90 g, the reactor was cooled. The period from completion of heating to initiation of cooling of the flask was 6 hours. After the flask was cooled to 50° C., the nitrogen inlet plug and the water distributor were removed from the flask. A vacuum line was connected to the flask to remove methanol remaining in the system by reducing pressure at 13 kPa for about 15 minutes. During these 15 minutes, about 21.0 g of methanol was removed under reduced pressure. Thereafter, the flask was cooled to room temperature, giving 929.81 g of a partial condensate of glycidyl ether group-containing alkoxysilane.

reactant | glycidol | 250.00 g | C1C(O1)CO | C3H6O2
reactant | tetramethoxysilane | 799.81 g | CO[Si](OC)(OC)OC | C4H12O4Si
reactant | dibutyltin dilaurate | 1.00 g | C(CCCCCCCCCCC)(=O)[O-].C(CCCCCCCCCCC)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | methanol | CO | CH4O
product | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
